US06936617B2
A mixture of 6-chloro-3-ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-imidazo[1,2-b]pyridazine (100 mg, 0.26 mmol), 1-ethoxyvinyltributylstannane (142 mg, 0.39 mmol) and PdCl2(Ph3P)2 (10 mg) in anhydrous toluene (5 mL) is heated at 110° C. in a sealed tube for 5 hours. On cooling, water (2 mL), and concentrated HCl (2 mL) are added and the mixture is stirred at room temperature for 2 hours. The mixture is neutralized with sodium carbonate solution and extracted with methylene chloride (3×15 mL). The combined organic layers are dried (Na2SO4) and the solvent removed. The residue is purified by PTLC (5% methanol in methylene chloride) to give 1-[3-ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)imidazo[1,2-b]pyridazin-6-yl]ethanone as a solid. 1H NMR (CDCl3): 7.95, d (1H); 7.86, d (1H0; 7.70, d (1H); 7.36, d (1H); 7.25, d (1H); 7.11, d (1H); 6.18, s (2H); 3.10, q (2H); 2.75, s (3H); 1.18, t (3H).

reactant | 6-chloro-3-ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-imidazo[1,2-b]pyridazine | 0.26 mmol, 100 mg | ClC=1C=CC=2N(N1)C(=C(N2)CN2C(=NC=C2)C=2SC=CN2)CC | C15H13ClN6S
reactant | 1-ethoxyvinyltributylstannane | 0.39 mmol, 142 mg | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | HCl | 2 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 mL | O | H2O
product | 1-[3-ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)imidazo[1,2-b]pyridazin-6-yl]ethanone | C(C)C1=C(N=C2N1N=C(C=C2)C(C)=O)CN2C(=NC=C2)C=2SC=CN2 | C17H16N6OS
